US06268387B1
4-Methoxy-N-phenyl-3-(3-pyridin-3-yl-thioureido)-benzamide
Prepared according to the procedure described for Example 60 using 3-amino-4-methoxy-N-phenyl-benzamide (0.972 g, 4.00 mmol) and 3-pyridyl isothiocyanate (0.565 g, 4.15 mmol). Trituration in hexanes/ethyl acetate (3:2) gave the product (1.441 g); m.p. 178-179° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 4.00 mmol, 0.972 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 3-pyridyl isothiocyanate | 4.15 mmol, 0.565 g | N1=CC(=CC=C1)N=C=S | C6H4N2S
product | 4-Methoxy-N-phenyl-3-(3-pyridin-3-yl-thioureido)-benzamide | 1.441 g | COC1=C(C=C(C(=O)NC2=CC=CC=C2)C=C1)NC(=S)NC=1C=NC=CC1 | C20H18N4O2S
